US05399712
Hydrogen chloride was bubbled through a stirred solution of 7.5 g (44 mmol) of 1-methylindole-3-acetonitrile in 100ml of dry isopropanol at room temperature. After 4 hours, the solvent was removed under reduced pressure and the residue was triturated with diethyl ether to give 5.17 g (44%) of isopropyl 1-methyl-3-indoleacetimidate hydrochloride as a white solid of melting point 133° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-methylindole-3-acetonitrile | 44 mmol, 7.5 g | CN1C=C(C2=CC=CC=C12)CC#N | C11H10N2
reactant | isopropanol | 100ml | C(C)(C)O | C3H8O
product | isopropyl 1-methyl-3-indoleacetimidate hydrochloride | 5.17 g, 44% | Cl.CN1C=C(C2=CC=CC=C12)CC(OC(C)C)=N | InChI=1S/C14H18N2O.ClH/c1-10(2)17-14(15)8-11-9-16(3)13-7-5-4-6-12(11)13;/h4-7,9-10,15H,8H2,1-3H3;1H
